US09357779B2
(2E)-3-(2,6-Difluorophenyl)-1-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]prop-2-en-1-one (I-12)
At room temperature, a solution of sodium hydroxide (19 mg) in methanol (0.25 ml) and water (0.05 ml) was added to a solution of 1-[4-(4-acetyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (190 mg) and 2,6-difluorobenzaldehyde (67 mg) in methanol (0.12 ml). The reaction mixture was stirred at room temperature overnight. After aqueous work-up, the mixture was extracted with ethyl acetate and the extracts were dried with sodium sulphate and concentrated under reduced pressure. The residue was purified chromatographically. This gave (2E)-3-(2,6-difluorophenyl)-1-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]prop-2-en-1-one (160 mg).

reactant | sodium hydroxide | 19 mg | [OH-].[Na+]
reactant | 1-[4-(4-acetyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone | 190 mg | C(C)(=O)C=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C17H19F3N4O2S
reactant | 2,6-difluorobenzaldehyde | 67 mg | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
solvent | methanol | 0.25 ml | CO | CH4O
solvent | water | 0.05 ml | O | H2O
solvent | methanol | 0.12 ml | CO | CH4O
product | (2E)-3-(2,6-Difluorophenyl)-1-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]prop-2-en-1-one | FC1=C(C(=CC=C1)F)/C=C/C(=O)C=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C24H21F5N4O2S
